US05869519
3-Amino-5-(2',6'-Dichlorobenzyloxy)-4-Hydroxypentanoic Acid, t-Butyl Ester
A mixture of 5-(2',6'-dichlorobenzyloxy)-4-hydroxy-3-nitropentanoic acid t-butyl ester (2.213 g, 0.0056 mol) and wet Raney nickel (3.4 g) in methanol (150 mL) was stirred for 2 hours under a hydrogen balloon at room temperature. The reaction mixture was filtered through Celite and the filter cake was washed with methanol. The filtrate was concentrated and chased with methylene chloride to give the title product (2.078 g, 100%). TLC: (methanol/methylene chloride 1/9): Rf =0.21.

reactant | 5-(2',6'-dichlorobenzyloxy)-4-hydroxy-3-nitropentanoic acid t-butyl ester | 0.0056 mol, 2.213 g | C(C)(C)(C)OC(CC(C(COCC1=C(C=CC=C1Cl)Cl)O)[N+](=O)[O-])=O | C16H21Cl2NO6
catalyst | Raney nickel | 3.4 g | [Ni] | Ni
solvent | methanol | 150 mL | CO | CH4O
product | 3-Amino-5-(2',6'-Dichlorobenzyloxy)-4-Hydroxypentanoic Acid, t-Butyl Ester | 2.078 g, 100% | NC(CC(=O)OC(C)(C)C)C(COCC1=C(C=CC=C1Cl)Cl)O | C16H23Cl2NO4
